US08026257B2
(±)-tert-Butyl 4-((1-(5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a solution of (±)-tert-butyl 4-((1-(5-bromo-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (340 mg, 0.639 mmol) and N-methyldicyclohexylamine (0.205 mL, 0.958 mmol) in tetrahydrofuran (2 mL) at 0° C. was added (2-(chloromethoxy)ethyl)trimethylsilane (0. 159 mL, 0.894 mmol). The ice bath was removed and the reaction stirred at room temperature overnight. The reaction was poured into diethyl ether, washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (12%→25% EtOAc/Hex) gave 383 mg (91%) as a foam. 1H-NMR (CDCl3, 500 MHz) δ 7.99 (s, 1H), 7.66 (s, 1H), 7.30 (m, 2H), 7.02 (m, 2H), 6.89 (s, 1H), 5.64 (qAB, JAB=10.7, 2H), 4.92 (q, J=6.4, 1H), 3.71 (m, 2H), 3.59 (m, 2H), 3.35 (qAB, JAB=9.2, 2H), 3.05 (m, 2H), 2.18 (m, 1H), 2.06 (m, 1H), 1.93 (m, 1H), 1.86 (m, 1H), 1.42 (m, 12H), 0.90 (m, 2H), −0.07 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 162.4, 160.5, 155.1, 145.6, 138.8, 135.9, 128.9 (d, J=7.7), 124.9, 123.6, 122.2, 121.1, 116.2, 115.3, 115.2, 81.9, 79.4, 77.9, 73.9, 67.6, 41.3, 40.3 (br), 32.3, 31.9, 28.6, 22.9, 17.9, −1.3.

reactant | (±)-tert-butyl 4-((1-(5-bromo-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.639 mmol, 340 mg | BrC=1C=C2C=NNC2=C(C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C26H31BrFN3O3
reactant | N-methyldicyclohexylamine | 0.958 mmol, 0.205 mL | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | (2-(chloromethoxy)ethyl)trimethylsilane | 0.894 mmol, 159 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (±)-tert-Butyl 4-((1-(5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | BrC1=CC2=CN(N=C2C(=C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45BrFN3O4Si
